2177-11-06 08:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2177-11-5**] 08:00 AM
 TRANSTHORACIC ECHO - At [**2177-11-5**] 11:34 AM
   - Ortho measured pressures in AM, again in PM, and again assessed
   patient around 10PM: will continue to monitor, no need for intervention
   at present
   - Warming to start at 10 AM
   - Attempted to switch A-line to radial, could not thread wire x3
   - IP adjusted chest tubes--pulled back right x2, placed left to water
   seal. Left side not clamped due to question of air leak
   - Dialyzed in afternoon (run even), line repeatedly clotted so needed
   some heparin. Repeat PTT after dialysis WNL.
   -Transthoracic echo completed: Mild LVH, moderate global left
   ventricular hypokinesis, LVEF 35-40%, right cavity dilated with
   depressed free wall contractility, trivial MR, no pericardial effusion.
   Suboptimal image quality.
   - Initiated ARDS net ventilation at 6cc/kg (490/32/10/70%) given marked
   hypoxia, bilateral infiltrates on imaging. Repeat ABG:
   7.34/45/117-->7.37/43/84-->7.29/52/84 this AM.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2177-11-5**] 12:00 PM
   Clindamycin - [**2177-11-5**] 04:00 PM
   Infusions:
   Midazolam (Versed) - 10 mg/hour
   Fentanyl - 200 mcg/hour
   Other ICU medications:
   Dextrose 50% - [**2177-11-5**] 11:00 AM
   Famotidine (Pepcid) - [**2177-11-5**] 01:00 PM
   Heparin Sodium (Prophylaxis) - [**2177-11-5**] 08:00 PM
   Fentanyl - [**2177-11-6**] 04:36 AM
   Midazolam (Versed) - [**2177-11-6**] 04:37 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-11-6**] 08:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   HR: 60 (59 - 74) bpm
   BP: 128/78(95) {104/70(81) - 142/89(105)} mmHg
   RR: 32 (16 - 32) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 75 Inch
    CVP: 7 (7 - 15)mmHg
   CO/CI (CCO): (5.1 L/min) / (2.2 L/min/m2)
   Total In:
                                                                  4,609 mL
                                                                    404 mL
   PO:
   TF:
   IVF:
                                                                  4,559 mL
                                                                    404 mL
   Blood products:
   Total out:
                                                                    460 mL
                                                                     20 mL
   Urine:
                                                                    380 mL
                                                                     20 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,149 mL
                                                                    384 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 490 (490 - 600) mL
   RR (Set): 32
   RR (Spontaneous): 1
   PEEP: 10 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10, FiO2 > 60%, RR >35
   PIP: 33 cmH2O
   Plateau: 22 cmH2O
   SpO2: 99%
   ABG: 7.29/52/84.[**Numeric Identifier 117**]/24/-1
   Ve: 16.5 L/min
   PaO2 / FiO2: 120
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   146 K/uL
   17.0 g/dL
   97 mg/dL
   4.2 mg/dL
   24 mEq/L
   5.0 mEq/L
   37 mg/dL
   101 mEq/L
   135 mEq/L
   45.1 %
   16.1 K/uL
        [image002.jpg]
                             [**2177-11-5**]  10:03 AM
                             [**2177-11-5**]  10:18 AM
                             [**2177-11-5**]  12:51 PM
                             [**2177-11-5**]  04:58 PM
                             [**2177-11-5**]  05:31 PM
                             [**2177-11-5**]  08:21 PM
                             [**2177-11-5**]  08:35 PM
                             [**2177-11-6**]  12:15 AM
                             [**2177-11-6**]  04:15 AM
                             [**2177-11-6**]  04:30 AM
   WBC
   16.1
   Hct
   45.8
   45.1
   Plt
   146
   Cr
   3.6
   4.1
   3.3
   3.6
   4.2
   TropT
   1.02
   TCO2
   25
   27
   25
   26
   26
   Glucose
   138
   190
   120
   101
   97
   Other labs: PT / PTT / INR:15.7/31.4/1.4, CK / CKMB /
   Troponin-T:[**Numeric Identifier 1610**]//1.02, ALT / AST:1007/1706, Alk Phos / T Bili:73/0.9,
   Fibrinogen:455 mg/dL, Lactic Acid:1.9 mmol/L, Albumin:2.8 g/dL,
   LDH:3030 IU/L, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:5.7 mg/dL
   Fluid analysis / Other labs:
   whte count down
   ptt down
   CKs trending down: 146,000
   ALT/AST still in 1000s
   lactates trending down 1.9 this AM
   Imaging: [**11-5**] ECHO: There is mild symmetric left ventricular
   hypertrophy with normal cavity size. There is moderate global left
   ventricular hypokinesis (LVEF = 35-40 %). The right ventricular cavity
   is dilated with depressed free wall contractility. There is no aortic
   valve stenosis. The mitral valve appears structurally normal with
   trivial mitral regurgitation. There is no pericardial effusion.
   IMPRESSION: Suboptimal image quality. Biventricular dilatation and
   global hypokinesis without significant valvular abnormality.
   Microbiology:
   [**11-5**]: Sputum
    2+  GRAM POSITIVE COCCI.  IN PAIRS AND CLUSTERS.
    2+  GRAM NEGATIVE ROD(S).
   HCV viral load pending
   [**11-4**] blood culture pending
   [**11-4**] urine culture penbding
   Assessment and Plan
   Patient is a 29 y/o M who was found down after overdosing on several
   drugs with tox screen positive for opiates, benzos and cocaine with
   resultant respiratory depression, acidemia, rhabdomyolysis, acute renal
   failure, intubated s/p PEA arrest which was likely caused by
   hyperkalemia vs hypoxia vs hypercarbia vs acidemia.
   Hypercarbic Respiratory Failure: Likely secondary to respiratory
   depression in setting of drugs (tox positive for cocaine, benzos,
   opoids) vs aspiration being down. Patient also has bilateral
   pneumothoracies with collapse of right middle and lower lobes and b/l
   effusions.
   - ARDS net protocol ventilation: 490/32/10/70%, still acidemic
   - b/l chest tubes to sunction, IP now following
   - Sputum gram stain gram positive cocci and gram - rods
   - Broad spectrum coverage  with Cefepime, vanco, clindamycin and
   azithromycin
   - versed and fentanyl for sedation.
   Rhabdomyolysis: CK on admission 206,000, now trending down. Creatinine
   4.5, K 7s. [**Month (only) 8**] have compartment syndrome or seizure activity, or
   prolonged stasis. Also possible is necrotizing faceitis in setting of
   trauma and redness overlying leg.
   - dialysis for treatment of rhabdo and hyperkalemia, will likely need
   for a while.
   - patient [**Last Name (LF) 1611**], [**First Name3 (LF) **] will hold off on alkalanizing urine
   - check frequent lytes.
   - Appreciate orthopedic surgery input for possible compartment
   syndrome, prssures not high enough to require [**Doctor First Name 91**]
   - Treat emirically for Nec fac with clindamycin
   - serial urine pH goal >7.
   Acute renal failure: with resultant hyperkalemia with peaked t waves.
   Likely etiology is rhabdomyolysis. Also contributing is prerenal
   failure from dehydration during drug use and possible emesis. Post
   renal also possible, but patient has foley now, and no hydro in CT. He
   recieved 2mg CaCl in the ED, as well is 10U IV insulin with an amp of
   D50. His femoral cordis was changed to a HD line over a wire in the ED
   prior to coming up to the MICU.
   - REnal consult called for emergent dialysis in setting of severe
   hyperkalemia.
   - Fluids with bicarb for treatment of rhabdomyolysis.
   - starting emergent dialysis on admission
   - recheck potassium
   Shock: likely cardiogenic in the setting of PEA arrest. also possible
   is sepsis from nec fac or lung process. previously on levophed and
   dopamine, the latter of which was weaned off prior to coming to the
   floor. Lactate >9 at max, now trending down
   - wean levophed as tolerated
   - monitor CVP goal [**9-9**]
   - generous fluids
   - goal UO >30.
   - check mixed venous sat concurrently with ABG for estimation of
   Cardiac output.
   - consider using vigileo to assess volume status and CO
   - treat emirically broad spectrum for possible infection with vanco,
   cefepime and clindamycin.
   - follow lactate.
   - check concurrent VBG and ABG
   PEA Arrest: s/p epi, atropine and shock x1 to get back into sinus.
   Etiology of this are possibly Hyperkalemia vs hypercarbia, vs cardiac
   suppression with drugs vs hypoxia. Using arctic cooling system for
   12-24 hours in the setting of PEA arrest. will paralyze with vecuronium
   to prevent shivering since patient has rhabdomyolysis.
   - ECHO
   Transaminitis: possibly shock liver in the setting of hypotension,
   acute hep b/c given patient is known drug user, or other [**Last Name (un) **] toxic
   ingestion (negative other than opiods, benzo and cocaine). patient has
   anion gap, but no osmolar gap. Also coagulopathy
   - hep panel
   - f/u liver on CT scan
   Anion gap metabolic acidosis: possible etiologies include lactic
   acidosis, rhabdo, may be DKA. will treat possible sources
   - fluids, bicarb drip, consider treating DKA with insulin
   leukocytosis: to 25 with 10% bands. possible sources are lungs with
   aspiration pna, left leg with possible
   - empiric broad spectrum coverage for now with Vanco, Clindamycin, and
   Zosyn
   Hypergylcemia: in setting of stress, insulin sliding scale
   Overdose: supportive treatment as above. social work consult when he
   wakes up.
   Access: left Subclavian, Rt femoral HD line, femoral aline
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2177-11-5**] 02:30 AM
   Multi Lumen - [**2177-11-5**] 02:30 AM
   18 Gauge - [**2177-11-5**] 02:30 AM
   Arterial Line - [**2177-11-5**] 08:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:

2177-11-07 08:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2177-11-6**] 11:15 PM
 ARTERIAL LINE - STOP [**2177-11-7**] 12:17 AM
   - Rewarmed per protocol
   - New a-line L radial
   - Tox: start NAC for total 21h course, get Hepatology c/s
   - Weaned down FiO2 to 40%, PEEP 8, RR 28
   - CT R leg:       No drainable collection, no gas in soft tissues or
   muscles. Generalized edema/inflammation of lateral subcutanous tissues.
   - Waking up, requires lot of sedation
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2177-11-6**] 01:00 PM
   Cefipime - [**2177-11-6**] 03:00 PM
   Clindamycin - [**2177-11-7**] 12:00 AM
   Infusions:
   Fentanyl - 200 mcg/hour
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2177-11-6**] 11:52 AM
   Heparin Sodium (Prophylaxis) - [**2177-11-7**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-11-7**] 08:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.4
C (97.5
   HR: 94 (60 - 103) bpm
   BP: 124/74(88) {108/65(80) - 136/82(100)} mmHg
   RR: 28 (0 - 32) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 75 Inch
    CVP: 14 (8 - 19)mmHg
   Total In:
                                                                  2,375 mL
                                                                    538 mL
   PO:
   TF:
   IVF:
                                                                  2,375 mL
                                                                    538 mL
   Blood products:
   Total out:
                                                                    105 mL
                                                                    135 mL
   Urine:
                                                                    105 mL
                                                                     60 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,270 mL
                                                                    403 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 490 (490 - 490) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 33 cmH2O
   Plateau: 21 cmH2O
   SpO2: 97%
   ABG: 7.41/39/81.[**Numeric Identifier 252**]/24/0
   Ve: 15.1 L/min
   PaO2 / FiO2: 203
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   106 K/uL
   12.9 g/dL
   96 mg/dL
   4.6 mg/dL
   24 mEq/L
   4.4 mEq/L
   36 mg/dL
   101 mEq/L
   137 mEq/L
   35.4 %
   10.9 K/uL
        [image002.jpg]
                             [**2177-11-6**]  04:15 AM
                             [**2177-11-6**]  04:30 AM
                             [**2177-11-6**]  07:36 AM
                             [**2177-11-6**]  08:13 AM
                             [**2177-11-6**]  11:36 AM
                             [**2177-11-6**]  11:52 AM
                             [**2177-11-6**]  04:50 PM
                             [**2177-11-6**]  11:22 PM
                            [**2177-11-7**]  04:18 AM
                            [**2177-11-7**]  06:20 AM
   WBC
   16.1
   10.9
   Hct
   45.1
   35.4
   Plt
   146
   106
   Cr
   4.2
   4.2
   2.8
   4.6
   TropT
   0.54
   TCO2
   26
   25
   25
   26
   26
   Glucose
   97
   105
   126
   106
   96
   Other labs: PT / PTT / INR:14.5/34.9/1.3, CK / CKMB /
   Troponin-T:[**Numeric Identifier 1649**]//0.54, ALT / AST:730/977, Alk Phos / T Bili:58/0.8,
   Differential-Neuts:84.8 %, Lymph:10.5 %, Mono:4.6 %, Eos:0.1 %,
   Fibrinogen:455 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.8 g/dL,
   LDH:1811 IU/L, Ca++:7.2 mg/dL, Mg++:1.7 mg/dL, PO4:4.7 mg/dL
   Imaging: [**11-6**]: LEg: No drainable collection, no gas in soft tissues or
   muscles. Generalized
   edema/inflammation of lateral subcutanous tissues.
   Microbiology: [**11-6**] Sputum: Gram stain.
   2+ GRAM POSITIVE COCCI.  IN PAIRS AND CLUSTERS.
   2+   (1-5 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
   HCV viral load: 1,610,000
   Assessment and Plan
   Patient is a 29 y/o M who was found down after overdosing on several
   drugs with tox screen positive for opiates, benzos and cocaine with
   resultant respiratory depression, acidemia, rhabdomyolysis, acute renal
   failure, intubated s/p PEA arrest which was likely caused by
   hyperkalemia vs hypoxia vs hypercarbia vs acidemia.
   Hypercarbic Respiratory Failure: Likely secondary to respiratory
   depression in setting of drugs (tox positive for cocaine, benzos,
   opoids) vs aspiration being down. Patient also has bilateral
   pneumothoracies with collapse of right middle and lower lobes and b/l
   effusions.
   - ARDS net protocol ventilation: 490/32/10/70%, still acidemic ----
   Fio2 down to 50 %
   - b/l chest tubes: Right to sunction, left to water seal. IP is
   following
   - Sputum gram stain gram positive cocci and gram
 rods, will follow up
   speciation.
   - Broad spectrum coverage  with Cefepime, vanco, clindamycin and
   azithromycin, continue for now, pending cultures
   - versed and fentanyl for sedation.
   Rhabdomyolysis/Acute Renal Failure: CK on admission 206,000, now
   trending down. Creatinine 4.5, K 7s. [**Month (only) 8**] have compartment syndrome or
   seizure activity, or prolonged stasis. Less likely, necrotizing
   faceitis in setting of trauma and redness overlying leg.
   - dialysis for treatment of rhabdo and hyperkalemia, will likely need
   for a while.
   - patient [**Last Name (LF) 1611**], [**First Name3 (LF) **] will hold off on alkalanizing urine
   - check frequent potassium.
   - Appreciate orthopedic surgery input for possible compartment
   syndrome, pressures not high enough to require [**Doctor First Name 91**]
   - Treat emirically for Nec fac with clindamycin
   - serial urine pH goal >7.
   Shock: likely cardiogenic in the setting of PEA arrest. also possible
   is sepsis from nec fac or lung process. Now off levophed. Can
   discontinue levophed.
   PEA Arrest: s/p epi, atropine and shock x1 to get back into sinus.
   Etiology of this are possibly Hyperkalemia vs hypercarbia, vs cardiac
   suppression with drugs vs hypoxia. Using Arctic Sun cooling system 24
   hours in the setting of PEA arrest, has been at goal temp now. ECHO
   with global hypoperfusion, will need f/u in [**1-29**] months.
   - will start warming today.
   Transaminitis: Likely secondary to Rhabdo. possibly shock liver in the
   setting of hypotension, patient with known
   leukocytosis: to 25 with 10% bands. possible sources are lungs with
   aspiration pna, left leg with possible
   - empiric broad spectrum coverage for now with Vanco, Clindamycin, and
   Zosyn, azithromycin
   - Gram stain in sputum positive, will await speciation.
   Overdose: supportive treatment as above. social work consult when he
   wakes up.
   Access: left Subclavian, Rt femoral HD line, femoral aline
   - attempt resiting aline.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2177-11-5**] 02:30 AM
   Multi Lumen - [**2177-11-5**] 02:30 AM
   18 Gauge - [**2177-11-5**] 02:30 AM
   Arterial Line - [**2177-11-6**] 11:15 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:

2177-11-09 07:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - SBT: Minute volume was low. Changed to pressure support [**9-5**], minute
   volume was [**6-6**], placed on MMV.
   - PM HCT stable at 30.8. Fibrinogen, haptoglobin both WNL, FDP 10-40.
   Peripheral smear pending. LDH trending down.
   - Leg remained stable. Ortho signed off, call with questions.
   - Renal attempted to UF, however BP dipped at times--UF 1.7 kg.
   - IP: Recommended leaving chest tubes in place until after extubation
   given question of placement.
   - EMS team that brought in patient stopped by, additional information
   obtained: Patient was seen [**Street Address(1) 1553**], attempting to get into his
   company's vehicle, was having difficulty, metermaid noticed patient. He
   fell onto his buttock as he attempted to get into his vehicle. EMS
   alerted, patient was noted to smell of marijuana, argued with EMS that
   he was fine, but reported that his legs hurt and refused to move them.
   EMS reports difficulty appreciating radial pulse, carotid pulse at that
   time was 112. No evidence of trauma. Patient was brought to [**Hospital1 5**] ED,
   was in ED for about 1 1/2 minutes, then arrested. EMS records now in
   chart.
   - Left CT inadvertently removed, followup CXR w/o clear PTX on L
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Clindamycin - [**2177-11-7**] 08:00 AM
   Azithromycin - [**2177-11-8**] 01:30 PM
   Cefipime - [**2177-11-8**] 03:10 PM
   Vancomycin - [**2177-11-8**] 04:00 PM
   Infusions:
   Fentanyl - 200 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2177-11-8**] 12:31 PM
   Heparin Sodium (Prophylaxis) - [**2177-11-8**] 04:06 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-11-9**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.7
C (98.1
   HR: 84 (75 - 89) bpm
   BP: 130/85(101) {94/82(86) - 164/102(116)} mmHg
   RR: 12 (9 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 75 Inch
    CVP: 10 (5 - 12)mmHg
   Total In:
                                                                  1,514 mL
                                                                    295 mL
   PO:
   TF:
   IVF:
                                                                  1,514 mL
                                                                    295 mL
   Blood products:
   Total out:
                                                                    142 mL
                                                                     45 mL
   Urine:
                                                                    142 mL
                                                                      5 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,372 mL
                                                                    250 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 490 (490 - 490) mL
   Vt (Spontaneous): 603 (603 - 847) mL
   PS : 8 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 20
   PIP: 17 cmH2O
   Plateau: 20 cmH2O
   Compliance: 49 cmH2O/mL
   SpO2: 97%
   ABG: ///26/
   Ve: 8.4 L/min
   Physical Examination
   Gen: Intubated, sedated
   HEENT: PERRL
   Lungs: Coarse BS bilat
   Heart; s1s2 RRR
   Abd: soft, NT/ND
   Ext: MAE
   Neuro: Follows commands when sedation lightened
   Labs / Radiology
   101 K/uL
   11.5 g/dL
   84 mg/dL
   7.0 mg/dL
   26 mEq/L
   4.5 mEq/L
   49 mg/dL
   103 mEq/L
   139 mEq/L
   31.0 %
   13.8 K/uL
        [image002.jpg]
                             [**2177-11-6**]  11:36 AM
                             [**2177-11-6**]  11:52 AM
                             [**2177-11-6**]  04:50 PM
                             [**2177-11-6**]  11:22 PM
                            [**2177-11-7**]  04:18 AM
                            [**2177-11-7**]  06:20 AM
                            [**2177-11-7**]  11:36 AM
                            [**2177-11-8**]  03:55 AM
                            [**2177-11-8**]  07:45 PM
                            [**2177-11-9**]  03:55 AM
   WBC
   10.9
   12.3
   13.8
   Hct
   35.4
   31.4
   30.8
   31.0
   Plt
   106
   109
   101
   Cr
   2.8
   4.6
   7.2
   7.0
   TropT
   0.54
   0.83
   0.82
   TCO2
   25
   26
   26
   26
   Glucose
   126
   106
   96
   84
   84
   Other labs: PT / PTT / INR:13.6/29.6/1.2, CK / CKMB /
   Troponin-T:[**Numeric Identifier 1704**]/50/0.82, ALT / AST:516/760, Alk Phos / T Bili:66/0.6,
   Differential-Neuts:80.8 %, Lymph:14.8 %, Mono:3.9 %, Eos:0.3 %,
   Fibrinogen:670 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.5 g/dL,
   LDH:1517 IU/L, Ca++:8.3 mg/dL, Mg++:2.0 mg/dL, PO4:5.3 mg/dL
   MICRO:
   - [**11-5**] Blood cx: NGTD
   - [**11-5**]: Sputum: 2+ GPC, GNR
   IMAGING:
   - CXR: ? residual PTX on R, not seen well on L
   Assessment and Plan
   Assessment and Plan
   Patient is a 29 year old male who was found down with toxicology screen
   positive for opiates, benzos, and cocaine with resultant respiratory
   depression, acidemia, rhabdomyolysis, acute renal failure, and
   intubated after PEA arrest in emergency room, now with following simple
   commands and starting to make urine.
   #) Hypercarbic Respiratory Failure: This has been felt to likely
   secondary to respiratory depression in setting of drugs use (toxicology
   screen positive for cocaine, benzos, opoids) versus aspiration from
   being down. Patient also has bilateral pneumothoracies with collapse of
   right middle and lower lobes and b/l effusions.
   - Given infiltrates on exam, patient had been switched over to
   ventilator settings consistent with ARDS net. We have been weaning his
   oxygen as tolerated. His ABG
s have been satisfactory.
   - Patient was agitated, so SBT was not tolerated, will try again to
   change to pressure support and another SBT.
   - Bilateral chest tubes: Given concern that right tube may be near lung
   [**Last Name (LF) 1683**], [**First Name3 (LF) 77**] [**Last Name (LF) **], [**First Name3 (LF) 124**] leave in place until after extubation. Right
   to sunction, left to water seal. Appreciate IP assistance.
   - Thick sputum today, Sputum culture with gram positive cocci, will
   follow up speciation.
   - Given patient was found down, history of drug use, was on pressors,
   will continue broad spectrum antibiotics for another day ( Cefepime,
   vanco, and azithromycin), and plan to narrow tomorrow pending further
   culture data
   - Versed and fentanyl for sedation, weaning as tolerated.
   - Will try to extubate today as tolerating SBT well today
   #) Rhabdomyolysis/Acute Renal Failure: Patient was found to have CK on
   admission 206,000, now trending down to 44,140. His initial creatinine
   was 4.5, with a potassium over 7. His rhabo was felt to be secondary to
   possible compartment syndrome or seizure activity, or prolonged stasis.
   Necrotizing faciitis was also a consideration, but CT of his leg was
   not consistent with this. It was felt that his large right thigh could
   be secondary to possible trauma.
   -  Will continue dialysis as needed for treatment of rhabdo and
   hyperkalemia, and volume state. It is encouraging that patient has
   started to make urine, but he is unlikely to make enough to correct his
   fluid balance in the next few days. His electrolytes today are WNL.
   - No HD today
   - Plan for tunneled line given projected course
   - Appreciate orthopedic surgery input for possible compartment
   syndrome
pressures have been measured and do not require intervention,
   continuing to monitor, Ortho signing off, will call with issues prn.
   - Discontinue clindamycin, very unlikely Necrotizing faciitis.
   #) Leukocytosis: On admission, WBC was 25 with 10% bands on admission,
   now normalized. Could be secondary to acute stress, versus infection
   (Lungs with aspiration pneumonia, left leg)
   -          Continue broad spectrum coverage for next 24 hours Vanco,
   cefepime, azithromycin until Speciation is done.
   -          Following culture data
   .
   #) PEA Arrest: His arrest was felt to likely be a combination of
   hyperkalemia, hypoxia, hypercarbia, and/or acidemia. He is status post
   Arctic Sun cooling system for 24 hours, now re-warmed. A transthoracic
   echocardiogram demonstrated global hypoperfusion, will need f/u in [**1-29**]
   months.  Transaminitis could also be effect of shock liver from PEA
   arrest.
   -          Continuing to monitor mental status, will attempt to lighten
   sedation to further assess, but appears to be responding appropriately
   to commands.
   .
   #) Anemia: Patient
s HCT this morning noted to be 31, down from 35
   yesterday. No active bleeding noted, but with large right thigh, will
   need to continue to monitor for hematoma there or other possible
   bleeding. Has not had evidence of DIC during cooling or re-warning, but
   will re-check DIC labs, PM HCT, B12/Folate, iron studies, and guaiac
   stools.
   .
   #) Transaminitis: This is likely secondary to muscle breakdown from
   rhabdo, but also could be from shock liver in the setting of
   hypotension, or hepatitis C. He is now s/p 21 hours of NAC for
   repleating glutathione stores, and his LFTs are trending downward.
   .
   #) Shock: Resolved
   #) Substance abuse: Supportive treatment as above. social work consult
   when he wakes up.
   #)Access: left Subclavian, Rt femoral HD line, left radial aline. Will
   need right femoral HD line removed soon, as this was exchanged over
   initial line placed on night of admission. Further HD access will be
   determined by how patient does over weekend and anticipated need for
   further dialysis.
   ICU Care
   Nutrition:
   Held TF for possible extubation, otherwise will start
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2177-11-5**] 02:30 AM
   Multi Lumen - [**2177-11-5**] 02:30 AM
   Arterial Line - [**2177-11-6**] 11:15 PM
   Prophylaxis:
   DVT: Hep SQ TID
   Stress ulcer: Famotidine
   VAP:  Chlorhexidine, head of bed elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2177-11-09 09:45:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Failed SBT yesterday with high MV
   Failed PS trial, placed on MMV
   Hct stable
   No bleed into hip apparent
   Began to make urine yesterday
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Clindamycin - [**2177-11-7**] 08:00 AM
   Azithromycin - [**2177-11-8**] 01:30 PM
   Cefipime - [**2177-11-8**] 03:10 PM
   Vancomycin - [**2177-11-8**] 04:00 PM
   Infusions:
   Fentanyl - 200 mcg/hour
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2177-11-9**] 09:00 AM
   Heparin Sodium (Prophylaxis) - [**2177-11-9**] 09:00 AM
   Other medications:
   albuterol nebs, pepcid
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-11-9**] 09:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 86 (75 - 88) bpm
   BP: 144/82(99) {94/82(86) - 164/98(112)} mmHg
   RR: 14 (9 - 22) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 75 Inch
   CVP: 6 (5 - 12)mmHg
   Total In:
                                                                  1,514 mL
                                                                    430 mL
   PO:
   TF:
   IVF:
                                                                  1,514 mL
                                                                    430 mL
   Blood products:
   Total out:
                                                                  1,842 mL
                                                                     97 mL
   Urine:
                                                                    142 mL
                                                                     17 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -328 mL
                                                                    333 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 490 (490 - 490) mL
   Vt (Spontaneous): 603 (603 - 847) mL
   PS : 8 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 20
   PIP: 17 cmH2O
   Plateau: 20 cmH2O
   SpO2: 96%
   ABG: ///26/
   Ve: 8.4 L/min
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed,
   Sedated, Tone: Not assessed
   Labs / Radiology
   11.5 g/dL
   101 K/uL
   84 mg/dL
   7.0 mg/dL
   26 mEq/L
   4.5 mEq/L
   49 mg/dL
   103 mEq/L
   139 mEq/L
   31.0 %
   13.8 K/uL
        [image002.jpg]
                             [**2177-11-6**]  11:36 AM
                             [**2177-11-6**]  11:52 AM
                             [**2177-11-6**]  04:50 PM
                             [**2177-11-6**]  11:22 PM
                            [**2177-11-7**]  04:18 AM
                            [**2177-11-7**]  06:20 AM
                            [**2177-11-7**]  11:36 AM
                            [**2177-11-8**]  03:55 AM
                            [**2177-11-8**]  07:45 PM
                            [**2177-11-9**]  03:55 AM
   WBC
   10.9
   12.3
   13.8
   Hct
   35.4
   31.4
   30.8
   31.0
   Plt
   106
   109
   101
   Cr
   2.8
   4.6
   7.2
   7.0
   TropT
   0.54
   0.83
   0.82
   TCO2
   25
   26
   26
   26
   Glucose
   126
   106
   96
   84
   84
   Other labs: PT / PTT / INR:13.6/29.6/1.2, CK / CKMB /
   Troponin-T:[**Numeric Identifier 1704**]/50/0.82, ALT / AST:516/760, Alk Phos / T Bili:66/0.6,
   Differential-Neuts:80.8 %, Lymph:14.8 %, Mono:3.9 %, Eos:0.3 %,
   Fibrinogen:670 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.5 g/dL,
   LDH:1517 IU/L, Ca++:8.3 mg/dL, Mg++:2.0 mg/dL, PO4:5.3 mg/dL
   Assessment and Plan
   Assessment and Plan
   Patient is a 29 year old male who was found down with toxicology screen
   positive for opiates, benzos, and cocaine with resultant respiratory
   depression, acidemia, rhabdomyolysis, acute renal failure, and
   intubated after PEA arrest in emergency room, now with following simple
   commands and starting to make urine.
   #) Hypercarbic Respiratory Failure: This has been felt to likely
   secondary to respiratory depression in setting of drugs use (toxicology
   screen positive for cocaine, benzos, opoids) versus aspiration from
   being down. Patient also has bilateral pneumothoracies with collapse of
   right middle and lower lobes and b/l effusions.
   - Given infiltrates on exam, patient had been switched over to
   ventilator settings consistent with ARDS net. We have been weaning his
   oxygen as tolerated. His ABG
s have been satisfactory.
   - Patient was agitated, SBT going well this AM. Might need to rapidly
   taper sedation and extubate if he continues to do well.
   - Bilateral chest tubes: Given concern that right tube may be near lung
   [**Last Name (LF) 1683**], [**First Name3 (LF) 77**] [**Last Name (LF) **], [**First Name3 (LF) 124**] leave in place until after extubation. Right
   to sunction, left to water seal. Appreciate IP assistance.Self d/c'd
   left chest tube
   - Sputum culture with gram positive cocci, will follow up speciation.
   - Given patient was found down, history of drug use, was on pressors,
   will continue broad spectrum antibiotics for another day ( Cefepime,
   vanco, and azithromycin), and plan to narrow tomorrow pending further
   culture data
   - Versed and fentanyl for sedation, weaning well.
   #) Rhabdomyolysis/Acute Renal Failure: Patient was found to have CK on
   admission 206,000, now trending down to 44,140. His initial creatinine
   was 4.5, with a potassium over 7. His rhabo was felt to be secondary to
   possible compartment syndrome or seizure activity, or prolonged stasis.
   Necrotizing faciitis was also a consideration, but CT of his leg was
   not consistent with this. It was felt that his large right thigh could
   be secondary to possible trauma.
   -  Will continue dialysis as needed for treatment of rhabdo and
   hyperkalemia, and volume state. It is encouraging that patient has
   started to make urine, but he is unlikely to make enough to correct his
   fluid balance in the next few days. His electrolytes today are WNL.
   Will likely receive ultrafiltrate today to remove fluid.
   - Appreciate orthopedic surgery input for possible compartment
   syndrome
pressures have been measured and do not require intervention,
   continuing to monitor, Ortho signing off, will call with issues prn.
   - Discontinue clindamycin, very unlikely Necrotizing faciitis.
   #) Leukocytosis: On admission, WBC was 25 with 10% bands on admission,
   now normalized. Could be secondary to acute stress, versus infection
   (Lungs with aspiration pneumonia, left leg)
   -          Continue broad spectrum coverage for next 24 hours Vanco,
   cefepime, azithromycin until Speciation is done.
   -          Following culture data
   .
   #) PEA Arrest: His arrest was felt to likely be a combination of
   hyperkalemia, hypoxia, hypercarbia, and/or acidemia. He is status post
   Arctic Sun cooling system for 24 hours, now re-warmed. A transthoracic
   echocardiogram demonstrated global hypoperfusion, will need f/u in [**1-29**]
   months.  Transaminitis could also be effect of shock liver from PEA
   arrest.
   -          Continuing to monitor mental status, will attempt to lighten
   sedation to further assess, but appears to be responding appropriately
   to commands.
   .
   #) Anemia: Patient
s HCT this morning noted to be 31, down from 35
   yesterday. No active bleeding noted, but with large right thigh, will
   need to continue to monitor for hematoma there or other possible
   bleeding. Has not had evidence of DIC during cooling or re-warning, but
   will re-check DIC labs, PM HCT, B12/Folate, iron studies, and guaiac
   stools.
   .
   #) Transaminitis: This is likely secondary to muscle breakdown from
   rhabdo, but also could be from shock liver in the setting of
   hypotension, or hepatitis C. He is now s/p 21 hours of NAC for
   repleating glutathione stores, and his LFTs are trending downward.
   .
   #) Shock: Resolved
   #) Substance abuse: Supportive treatment as above. social work consult
   when he wakes up.
   #)Access: left Subclavian, Rt femoral HD line, left radial aline. Will
   need right femoral HD line removed soon, as this was exchanged over
   initial line placed on night of admission. Further HD access will be
   determined by how patient does over weekend and anticipated need for
   further dialysis.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2177-11-5**] 02:30 AM
   Multi Lumen - [**2177-11-5**] 02:30 AM
   Arterial Line - [**2177-11-6**] 11:15 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2177-11-10 07:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 DIALYSIS CATHETER - STOP [**2177-11-9**] 10:00 AM
 SPUTUM CULTURE - At [**2177-11-9**] 10:00 AM
 INVASIVE VENTILATION - STOP [**2177-11-9**] 12:00 PM
 CHEST TUBE PLACED - At [**2177-11-9**] 11:00 PM
   Lt anterior chest pic dart placed by thoracic
   - Extubated
   - L chest tube fell out, still has small PTX on L, R tube intact --> L
   PTX increased in size --> Thoracics placed Dart in the left anterior
   chest with improved CXR
   - Hct stable
   - Renal removed HD groin line, plan for ? tunneled line Tuesday for
   long term HD
   - ? Obstructive breathing, improved with nasal trumpet
   - ABGs OK
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Clindamycin - [**2177-11-7**] 08:00 AM
   Cefipime - [**2177-11-8**] 03:10 PM
   Vancomycin - [**2177-11-8**] 04:00 PM
   Azithromycin - [**2177-11-9**] 11:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2177-11-9**] 09:00 AM
   Heparin Sodium (Prophylaxis) - [**2177-11-9**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-11-10**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.8
C (98.3
   HR: 82 (73 - 94) bpm
   BP: 175/92(114) {135/77(97) - 179/97(117)} mmHg
   RR: 20 (14 - 34) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 75 Inch
    CVP: 8 (-1 - 16)mmHg
   Total In:
                                                                    875 mL
                                                                     78 mL
   PO:
   TF:
   IVF:
                                                                    875 mL
                                                                     78 mL
   Blood products:
   Total out:
                                                                    138 mL
                                                                     10 mL
   Urine:
                                                                     48 mL
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    737 mL
                                                                     68 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CPAP/PSV
   Vt (Set): 490 (490 - 490) mL
   Vt (Spontaneous): 590 (590 - 590) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 26
   PIP: 17 cmH2O
   SpO2: 98%
   ABG: 7.40/41/92.[**Numeric Identifier 491**]/26/0
   Ve: 9.4 L/min
   PaO2 / FiO2: 186
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   115 K/uL
   11.5 g/dL
   102 mg/dL
   9.5 mg/dL
   26 mEq/L
   4.6 mEq/L
   76 mg/dL
   102 mEq/L
   139 mEq/L
   31.2 %
   14.4 K/uL
        [image002.jpg]
                            [**2177-11-7**]  04:18 AM
                            [**2177-11-7**]  06:20 AM
                            [**2177-11-7**]  11:36 AM
                            [**2177-11-8**]  03:55 AM
                            [**2177-11-8**]  07:45 PM
                            [**2177-11-9**]  03:55 AM
                            [**2177-11-9**]  06:55 PM
                            [**2177-11-9**]  07:17 PM
                            [**2177-11-10**]  12:47 AM
                            [**2177-11-10**]  04:31 AM
   WBC
   10.9
   12.3
   13.8
   14.4
   Hct
   35.4
   31.4
   30.8
   31.0
   29.5
   31.2
   Plt
   106
   109
   101
   115
   Cr
   4.6
   7.2
   7.0
   8.7
   9.5
   TropT
   0.54
   0.83
   0.82
   TCO2
   26
   26
   26
   26
   Glucose
   96
   84
   84
   100
   102
   Other labs: PT / PTT / INR:13.0/26.3/1.1, CK / CKMB /
   Troponin-T:[**Numeric Identifier 1726**]/50/0.82, ALT / AST:516/760, Alk Phos / T Bili:66/0.6,
   Differential-Neuts:80.8 %, Lymph:14.8 %, Mono:3.9 %, Eos:0.3 %,
   Fibrinogen:670 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.5 g/dL,
   LDH:1517 IU/L, Ca++:8.3 mg/dL, Mg++:2.5 mg/dL, PO4:6.0 mg/dL
   Fluid analysis / Other labs: cks trending down
   Microbiology: [**2177-11-5**]: sputum:
   STAPH AUREUS COAG +
   CLINDAMYCIN-----------<=0.25 S
   ERYTHROMYCIN----------<=0.25 S
   GENTAMICIN------------ <=0.5 S
   LEVOFLOXACIN----------<=0.12 S
   OXACILLIN-------------   0.5 S
   PENICILLIN G---------- =>0.5 R
   TRIMETHOPRIM/SULFA---- <=0.5 S
   Assessment and Plan
   Patient is a 29 year old male who was found down with toxicology screen
   positive for opiates, benzos, and cocaine with resultant respiratory
   depression, acidemia, rhabdomyolysis, acute renal failure, and
   intubated after PEA arrest in emergency room, now with following simple
   commands and starting to make urine.
   Hypercarbic Respiratory Failure: This has been felt to likely secondary
   to respiratory depression in setting of drugs use (toxicology screen
   positive for cocaine, benzos, opoids) versus aspiration from being
   down. Patient also has bilateral pneumothoracies with collapse of right
   middle and lower lobes and b/l effusions.
   - Given infiltrates on exam, patient had been switched over to
   ventilator settings consistent with ARDS net. We have been weaning his
   oxygen as tolerated. His ABG
s have been satisfactory.
   - Patient was agitated, so SBT was not tolerated, will try again to
   change to pressure support and another SBT.
   - Bilateral chest tubes: Given concern that right tube may be near lung
   [**Last Name (LF) 1683**], [**First Name3 (LF) 77**] [**Last Name (LF) **], [**First Name3 (LF) 124**] leave in place until after extubation. Right
   to sunction, left to water seal. Appreciate IP assistance.
   - Thick sputum today, Sputum culture with gram positive cocci, will
   follow up speciation.
   - Given patient was found down, history of drug use, was on pressors,
   will continue broad spectrum antibiotics for another day ( Cefepime,
   vanco, and azithromycin), and plan to narrow tomorrow pending further
   culture data
   - Versed and fentanyl for sedation, weaning as tolerated.
   - Will try to extubate today as tolerating SBT well today
   Rhabdomyolysis/Acute Renal Failure: Patient was found to have CK on
   admission 206,000, now trending down to 44,140. His initial creatinine
   was 4.5, with a potassium over 7. His rhabo was felt to be secondary to
   possible compartment syndrome or seizure activity, or prolonged stasis.
   Necrotizing faciitis was also a consideration, but CT of his leg was
   not consistent with this. It was felt that his large right thigh could
   be secondary to possible trauma.
   -  Will continue dialysis as needed for treatment of rhabdo and
   hyperkalemia, and volume state. It is encouraging that patient has
   started to make urine, but he is unlikely to make enough to correct his
   fluid balance in the next few days. His electrolytes today are WNL.
   - No HD today
   - Plan for tunneled line given projected course
   - Appreciate orthopedic surgery input for possible compartment
   syndrome
pressures have been measured and do not require intervention,
   continuing to monitor, Ortho signing off, will call with issues prn.
   - Discontinue clindamycin, very unlikely Necrotizing faciitis.
   Leukocytosis: On admission, WBC was 25 with 10% bands on admission, now
   normalized. Could be secondary to acute stress, versus infection (Lungs
   with aspiration pneumonia, left leg)
   -  Continue broad spectrum coverage for next 24 hours Vanco, cefepime,
   azithromycin until Speciation is done.
   -  Following culture data
   PEA Arrest: His arrest was felt to likely be a combination of
   hyperkalemia, hypoxia, hypercarbia, and/or acidemia. He is status post
   Arctic Sun cooling system for 24 hours, now re-warmed. A transthoracic
   echocardiogram demonstrated global hypoperfusion, will need f/u in [**1-29**]
   months.  Transaminitis could also be effect of shock liver from PEA
   arrest.
   -  Continuing to monitor mental status, will attempt to lighten
   sedation to further assess, but appears to be responding appropriately
   to commands.
   Anemia: Patient
s HCT this morning noted to be 31, down from 35
   yesterday. No active bleeding noted, but with large right thigh, will
   need to continue to monitor for hematoma there or other possible
   bleeding. Has not had evidence of DIC during cooling or re-warning, but
   will re-check DIC labs, PM HCT, B12/Folate, iron studies, and guaiac
   stools.
   Transaminitis: This is likely secondary to muscle breakdown from
   rhabdo, but also could be from shock liver in the setting of
   hypotension, or hepatitis C. He is now s/p 21 hours of NAC for
   repleating glutathione stores, and his LFTs are trending downward.
   Shock: Resolved
   Substance abuse: Supportive treatment as above. social work consult
   when he wakes up.
   Access: left Subclavian, Rt femoral HD line, left radial aline. Will
   need right femoral HD line removed soon, as this was exchanged over
   initial line placed on night of admission. Further HD access will be
   determined by how patient does over weekend and anticipated need for
   further dialysis.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2177-11-5**] 02:30 AM
   Arterial Line - [**2177-11-6**] 11:15 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2177-11-10 09:30:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 DIALYSIS CATHETER - STOP [**2177-11-9**] 10:00 AM
 SPUTUM CULTURE - At [**2177-11-9**] 10:00 AM
 INVASIVE VENTILATION - STOP [**2177-11-9**] 12:00 PM
 CHEST TUBE PLACED - At [**2177-11-9**] 11:00 PM
   Lt anterior chest pic dart placed by thoracic
   PTX improved
   Extubated, doing well
   Alert, but lethargic
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2177-11-8**] 03:10 PM
   Vancomycin - [**2177-11-8**] 04:00 PM
   Azithromycin - [**2177-11-9**] 11:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2177-11-10**] 08:30 AM
   Heparin Sodium - [**2177-11-10**] 08:30 AM
   Other medications:
   albuterol nebs
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-11-10**] 09:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.6
C (97.9
   HR: 77 (73 - 94) bpm
   BP: 175/159(164) {135/77(97) - 179/159(164)} mmHg
   RR: 23 (15 - 34) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 75 Inch
   CVP: 6 (-1 - 16)mmHg
   Total In:
                                                                    875 mL
                                                                    143 mL
   PO:
   TF:
   IVF:
                                                                    875 mL
                                                                    143 mL
   Blood products:
   Total out:
                                                                    138 mL
                                                                     30 mL
   Urine:
                                                                     48 mL
                                                                     30 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    737 mL
                                                                    113 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 96%
   ABG: 7.40/41/92.[**Numeric Identifier 491**]/26/0
   PaO2 / FiO2: 186
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   11.5 g/dL
   115 K/uL
   102 mg/dL
   9.5 mg/dL
   26 mEq/L
   4.6 mEq/L
   76 mg/dL
   102 mEq/L
   139 mEq/L
   31.2 %
   14.4 K/uL
        [image002.jpg]
                            [**2177-11-7**]  04:18 AM
                            [**2177-11-7**]  06:20 AM
                            [**2177-11-7**]  11:36 AM
                            [**2177-11-8**]  03:55 AM
                            [**2177-11-8**]  07:45 PM
                            [**2177-11-9**]  03:55 AM
                            [**2177-11-9**]  06:55 PM
                            [**2177-11-9**]  07:17 PM
                            [**2177-11-10**]  12:47 AM
                            [**2177-11-10**]  04:31 AM
   WBC
   10.9
   12.3
   13.8
   14.4
   Hct
   35.4
   31.4
   30.8
   31.0
   29.5
   31.2
   Plt
   106
   109
   101
   115
   Cr
   4.6
   7.2
   7.0
   8.7
   9.5
   TropT
   0.54
   0.83
   0.82
   TCO2
   26
   26
   26
   26
   Glucose
   96
   84
   84
   100
   102
   Other labs: PT / PTT / INR:13.0/26.3/1.1, CK / CKMB /
   Troponin-T:[**Numeric Identifier 1726**]/50/0.82, ALT / AST:516/760, Alk Phos / T Bili:66/0.6,
   Differential-Neuts:80.8 %, Lymph:14.8 %, Mono:3.9 %, Eos:0.3 %,
   Fibrinogen:670 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.5 g/dL,
   LDH:1517 IU/L, Ca++:8.3 mg/dL, Mg++:2.5 mg/dL, PO4:6.0 mg/dL
   Microbiology: Sputum [**11-5**] - Pan Sensitive Staph
   Assessment and Plan
   Assessment and Plan
   Assessment and Plan
   Patient is a 29 year old male who was found down with toxicology screen
   positive for opiates, benzos, and cocaine with resultant respiratory
   depression, acidemia, rhabdomyolysis, acute renal failure, and
   intubated after PEA arrest in emergency room, now with following simple
   commands and starting to make urine.
   #) Hypercarbic Respiratory Failure: Now extubated and doing well but
   still very lethargic
   - Bilateral chest tubes: Given concern that right tube may be near lung
   [**Last Name (LF) 1683**], [**First Name3 (LF) 77**] [**Last Name (LF) **], [**First Name3 (LF) 124**] leave in place until after extubation. Right
   to sunction, left to water seal. Appreciate IP assistance. Needed to
   replace left chest tube for enlarged PTX after tube was self-d/c'd
   #) Rhabdomyolysis/Acute Renal Failure: Patient was found to have CK on
   admission 206,000, now trending down to 44,140. His initial creatinine
   was 4.5, with a potassium over 7. His rhabo was felt to be secondary to
   possible compartment syndrome or seizure activity, or prolonged stasis.
   Necrotizing faciitis was also a consideration, but CT of his leg was
   not consistent with this. It was felt that his large right thigh could
   be secondary to possible trauma.
   -  Will continue dialysis as needed for treatment of rhabdo and
   hyperkalemia, and volume state. It is encouraging that patient has
   started to make urine.
   #) Leukocytosis: On admission, WBC was 25 with 10% bands on admission,
   now normalized. Could be secondary to acute stress, versus infection
   (Lungs with aspiration pneumonia, left leg)
   -          Vanco, d/c cefepime, azithromycin with pan sensitive Staph
   #) PEA Arrest: His arrest was felt to likely be a combination of
   hyperkalemia, hypoxia, hypercarbia, and/or acidemia. He is status post
   Arctic Sun cooling system for 24 hours, now re-warmed. A transthoracic
   echocardiogram demonstrated global hypoperfusion, will need f/u in [**1-29**]
   months.  Transaminitis could also be effect of shock liver from PEA
   arrest.
   #) Anemia: Patient
s HCT this morning noted to be 31, down from 35
   yesterday. No active bleeding noted, but with large right thigh, will
   need to continue to monitor for hematoma there or other possible
   bleeding. Has not had evidence of DIC during cooling or re-warning, but
   will re-check DIC labs, PM HCT, B12/Folate, iron studies, and guaiac
   stools.
   #) Transaminitis: This is likely secondary to muscle breakdown from
   rhabdo, but also could be from shock liver in the setting of
   hypotension, or hepatitis C.
   #) Shock: Resolved
   #) Substance abuse: Supportive treatment as above. social work consult
   when he wakes up.
   #)Access: left Subclavian, Rt femoral HD line, left radial aline. Will
   need right femoral HD line removed soon, as this was exchanged over
   initial line placed on night of admission. Further HD access will be
   determined by how patient does over weekend and anticipated need for
   further dialysis.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2177-11-5**] 02:30 AM
   Arterial Line - [**2177-11-6**] 11:15 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2177-11-11 07:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2177-11-10**] 10:00 AM
   [**Known lastname 1563**]:
   [ ] Need to call IR first thing to get tunnelled HD line (x72101)
   - needs HD early tomorrow
   - got 10mg Iv hydral x1 for sbps in 170s
   - weaned oxygen from 40% face mask to Nasal cannula
   - discontinued all antibiotics (got vancx7 days for pansensitive staph
   in sputum)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2177-11-8**] 03:10 PM
   Vancomycin - [**2177-11-8**] 04:00 PM
   Azithromycin - [**2177-11-9**] 11:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2177-11-10**] 08:30 AM
   Heparin Sodium - [**2177-11-10**] 02:00 PM
   Heparin Sodium (Prophylaxis) - [**2177-11-11**] 07:37 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-11-11**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.5
C (97.7
   HR: 78 (75 - 86) bpm
   BP: 175/87(105) {152/60(85) - 184/96(113)} mmHg
   RR: 34 (18 - 45) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 75 Inch
    CVP: 10 (0 - 14)mmHg
   Total In:
                                                                    290 mL
                                                                    200 mL
   PO:
                                                                    120 mL
   TF:
   IVF:
                                                                    290 mL
                                                                     80 mL
   Blood products:
   Total out:
                                                                     55 mL
                                                                     30 mL
   Urine:
                                                                     55 mL
                                                                     30 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    235 mL
                                                                    170 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   114 K/uL
   11.4 g/dL
   98 mg/dL
   11.8 mg/dL
   23 mEq/L
   4.6 mEq/L
   108 mg/dL
   102 mEq/L
   140 mEq/L
   29.2 %
   15.4 K/uL
        [image002.jpg]
                            [**2177-11-7**]  11:36 AM
                            [**2177-11-8**]  03:55 AM
                            [**2177-11-8**]  07:45 PM
                            [**2177-11-9**]  03:55 AM
                            [**2177-11-9**]  06:55 PM
                            [**2177-11-9**]  07:17 PM
                            [**2177-11-10**]  12:47 AM
                            [**2177-11-10**]  04:31 AM
                            [**2177-11-10**]  02:40 PM
                            [**2177-11-11**]  04:19 AM
   WBC
   12.3
   13.8
   14.4
   15.4
   Hct
   31.4
   30.8
   31.0
   29.5
   31.2
   29.2
   Plt
   109
   101
   115
   114
   Cr
   7.2
   7.0
   8.7
   9.5
   10.4
   11.8
   TropT
   0.83
   0.82
   0.56
   TCO2
   26
   26
   26
   Glucose
   84
   84
   100
   102
   102
   98
   Other labs: PT / PTT / INR:13.2/25.0/1.1, CK / CKMB /
   Troponin-T:[**Numeric Identifier 1743**]/50/0.56, ALT / AST:516/760, Alk Phos / T Bili:66/0.6,
   Differential-Neuts:80.8 %, Lymph:14.8 %, Mono:3.9 %, Eos:0.3 %,
   Fibrinogen:670 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.5 g/dL,
   LDH:1517 IU/L, Ca++:8.4 mg/dL, Mg++:2.8 mg/dL, PO4:5.4 mg/dL
   Assessment and Plan
   Patient is a 29 year old male who was found down with toxicology screen
   positive for opiates, benzos, and cocaine with resultant respiratory
   depression, acidemia, rhabdomyolysis, acute renal failure, and
   intubated after PEA arrest in emergency room, now with following simple
   commands and starting to make urine.
   Hypercarbic Respiratory Failure: Patient now extubted ([**11-9**]). Patient
   has persistent bilateral pneumothoracies  with DART on left side with
   reexpansion of lung and chest tube on left.
   - Hypoxic overnight, improved with nasal trumpet
   - Chest tubes x2, IP following. Yesterday self discontinued left side
   with worsening of PTX, put in DART with resoluation.
   - Staph aureus from sputum culture Pan sensitive. Got vanc x 7 days,
   will discontinue antibiotics, vanc still in system until HD tomorrow.
   Will give a dose of levoflox if gets dialyzed tday.
   Rhabdomyolysis/Acute Renal Failure: Patient was found to have CK on
   admission 206,000, now trending down. Creatinine increasing quickly
   without dialysis.  His rhabo was felt to be secondary to possible
   compartment syndrome or seizure activity, or prolonged stasis.
   -  Continue dialysis as needed for treatment of rhabdo and
   hyperkalemia, and volume state.
   - making minimal urine
   - Plan for tunneled line given projected course, in for one, will call
   IR first thing in AM to ensure that he gets this early([**Numeric Identifier 1728**])
   - Appreciate orthopedic surgery input for possible compartment
   syndrome
pressures low, no [**Doctor First Name 91**]. Ortho signed off.
   Leukocytosis: WBC 25 with 10% bands on admission, now normalized. Could
   be secondary to acute stress, versus infection (Lungs with aspiration
   pneumonia, left leg)
   -  as above, sputum with pan sensitive staph aureus, s/p 6 days of
   vanco, 7th day [**11-11**], will still be in system since no dialysis today.
    PEA Arrest: His arrest was felt to likely be a combination of
   hyperkalemia, hypoxia, hypercarbia, and/or acidemia.
   s/p  Arctic Sun cooling system for 24 hours, now re-warmed.
   TTE: global hypoperfusion, will need f/u in [**1-29**] months.
   - f/u TTE in 4 weeks.
    Anemia: Patient
s HCT this morning noted to be 31, down from 35
   yesterday. No active bleeding noted, but with large right thigh, will
   need to continue to monitor for hematoma there or other possible
   bleeding. Has not had evidence of DIC during cooling or re-warning.
    Transaminitis: This is likely secondary to muscle breakdown from
   rhabdo, but also could be from shock liver in the setting of
   hypotension, or hepatitis C. He is now s/p 21 hours of NAC for
   repleting glutathione stores, and his LFTs are trending downward.
    Shock: Resolved
   Substance abuse: Supportive treatment as above. social work consult
   when he wakes up.
   Access: left Subclavian, left radial aline. In for new tunneled HD cath
   for future HD.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2177-11-5**] 02:30 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:

2177-11-12 07:18:00 Physician Resident Progress Note
Chief Complaint: Rhabdo, PEA arrest
   24 Hour Events:
 DIALYSIS CATHETER - START [**2177-11-11**] 11:30 AM
 ULTRASOUND - At [**2177-11-11**] 09:00 PM
   - Left HD tunnelled line inserted today
   - Had HD, UF'd 4.5L
   - had oozing from line, gave ddavp 22mcg x1
   - Right Chest Tube removed by IP, left still to sunction. Sitll has
   dart as well.
   - Remained tachypneic all day (before and after CT removal)
   -- ABG showed resp alkalosis
   -- LENIs last night neg for DVT preliminarily
   -- repeat cxr shows elevated right Hemidiaphragm - rechecking in the
   monring
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2177-11-9**] 11:00 AM
   Infusions:
   Other ICU medications:
   Hydralazine - [**2177-11-11**] 08:33 AM
   Heparin Sodium (Prophylaxis) - [**2177-11-12**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-11-12**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.8
C (100.1
   HR: 90 (77 - 112) bpm
   BP: 151/78(95) {146/69(90) - 195/102(116)} mmHg
   RR: 38 (16 - 47) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 75 Inch
             Total In:
                                                                  2,760 mL
                                                                  1,072 mL
   PO:
                                                                  2,470 mL
                                                                  1,000 mL
   TF:
   IVF:
                                                                    290 mL
                                                                     72 mL
   Blood products:
   Total out:
                                                                  4,563 mL
                                                                      5 mL
   Urine:
                                                                     63 mL
                                                                      5 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,803 mL
                                                                  1,067 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.53/32/61/27/4
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   105 K/uL
   11.2 g/dL
   160 mg/dL
   8.6 mg/dL
   27 mEq/L
   4.4 mEq/L
   76 mg/dL
   100 mEq/L
   138 mEq/L
   29.9 %
   16.8 K/uL
        [image002.jpg]
                            [**2177-11-8**]  07:45 PM
                            [**2177-11-9**]  03:55 AM
                            [**2177-11-9**]  06:55 PM
                            [**2177-11-9**]  07:17 PM
                            [**2177-11-10**]  12:47 AM
                            [**2177-11-10**]  04:31 AM
                            [**2177-11-10**]  02:40 PM
                            [**2177-11-11**]  04:19 AM
                            [**2177-11-11**]  05:00 PM
                            [**2177-11-12**]  04:45 AM
   WBC
   13.8
   14.4
   15.4
   16.8
   Hct
   30.8
   31.0
   29.5
   31.2
   29.2
   29.9
   Plt
   101
   115
   114
   105
   Cr
   7.0
   8.7
   9.5
   10.4
   11.8
   8.6
   TropT
   0.82
   0.56
   TCO2
   26
   26
   28
   Glucose
   84
   100
   102
   102
   98
   160
   Other labs: PT / PTT / INR:13.2/25.0/1.1, CK / CKMB /
   Troponin-T:[**Numeric Identifier 1743**]/50/0.56, ALT / AST:516/760, Alk Phos / T Bili:66/0.6,
   Differential-Neuts:80.8 %, Lymph:14.8 %, Mono:3.9 %, Eos:0.3 %,
   Fibrinogen:670 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.5 g/dL,
   LDH:1517 IU/L, Ca++:7.9 mg/dL, Mg++:2.1 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   Assessment and Plan
   Patient is a 29 year old male who was found down with toxicology screen
   positive for opiates, benzos, and cocaine with resultant respiratory
   depression, acidemia, rhabdomyolysis, acute renal failure, and
   intubated after PEA arrest in emergency room, now with following simple
   commands and starting to make urine.
   Hypercarbic Respiratory Failure: Patient now extubted ([**11-9**]). Patient
   has persistent bilateral pneumothoracies with DART on left side with
   reexpansion of lung and chest tube on left.
   - Patient satting well, weaned fro 40% to 4L NC overnight.
   - Chest tubes x2, IP following. Right chest tube to water seal, can
   likely pull today. Left still on wall suction.
   - Staph aureus from sputum culture Pan sensitive. Got vanc x 7 days
   Rhabdomyolysis/Acute Renal Failure: Patient was found to have CK on
   admission 206,000, now trending down. His rhabdo was felt to be
   secondary to possible compartment syndrome or seizure activity, or
   prolonged stasis.
   -  Continue dialysis as needed for treatment of rhabdo and
   hyperkalemia, and volume state.
   - making minimal urine
   - Getting IR guided tunneled line today
   - HD today
   Hypertension: Has been trending high since last HD. Likely volume
   related. Planned to get dialyzed today, but in the interim, will treat
   with IV hydralazine PRN
   Altered Mental Status: Likely still has sedation on board, since has
   not been dialyzed since Saturday. Also contributing is uremia.
   Leukocytosis: WBC 25 with 10% bands on admission, now normalized. Could
   be secondary to acute stress, versus infection (Lungs with aspiration
   pneumonia, left leg)
   -  as above, sputum with pan sensitive staph aureus, s/p 7 days of
   vanco, 7th day [**11-11**], will still be in system since no dialysis today.
    PEA Arrest: His arrest was felt to likely be a combination of
   hyperkalemia, hypoxia, hypercarbia, and/or acidemia.
   s/p  Arctic Sun cooling system for 24 hours, now re-warmed.
   TTE: global hypoperfusion, will need f/u in [**1-29**] months.
   - f/u TTE in 4 weeks.
    Anemia: Patient
s HCT this morning noted to be 31, down from 35
   yesterday. No active bleeding noted, but with large right thigh, will
   need to continue to monitor for hematoma there or other possible
   bleeding. Has not had evidence of DIC during cooling or re-warning.
    Transaminitis: This is likely secondary to muscle breakdown from
   rhabdo, but also could be from shock liver in the setting of
   hypotension, or hepatitis C. He is now s/p 21 hours of NAC for
   repleting glutathione stores, and his LFTs are trending downward.
    Shock: Resolved
   Substance abuse: Supportive treatment as above. social work consult
   when he wakes up.
   Access: left Subclavian, left radial aline. In for new tunneled HD cath
   for future HD.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2177-11-5**] 02:30 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2177-11-5**] 02:30 AM
   Dialysis Catheter - [**2177-11-11**] 11:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2177-11-13 07:16:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2177-11-12**] 12:00 PM
   periperhal and central line done about 2 hours apart
 URINE CULTURE - At [**2177-11-12**] 12:00 PM
 MULTI LUMEN - STOP [**2177-11-12**] 04:00 PM
   - Culture data: pending
   - CT Chest w/o contrast: RLL collapse, RML collapse, plugging in R
   bronchus intermedius; pneumomediastinum also noticed
   - DART seen in SQ tissues and not in chest cavity, thus taken out by IP
   - DC
d central line
   - PIV placed
   - HD line is located at atrialcaval junction
   - Patient given Oxycodone for pain control
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2177-11-13**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-11-13**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.6
C (97.9
   HR: 85 (76 - 98) bpm
   BP: 173/91(109) {115/77(92) - 182/95(166)} mmHg
   RR: 25 (22 - 43) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 75 Inch
             Total In:
                                                                  2,720 mL
                                                                    322 mL
   PO:
                                                                  2,480 mL
                                                                    250 mL
   TF:
   IVF:
                                                                    240 mL
                                                                     72 mL
   Blood products:
   Total out:
                                                                     15 mL
                                                                      0 mL
   Urine:
                                                                     15 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,705 mL
                                                                    322 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///24/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   72 K/uL
   11.1 g/dL
   132 mg/dL
   10.9 mg/dL
   24 mEq/L
   4.7 mEq/L
   103 mg/dL
   95 mEq/L
   132 mEq/L
   28.3 %
   23.5 K/uL
        [image002.jpg]
                            [**2177-11-9**]  03:55 AM
                            [**2177-11-9**]  06:55 PM
                            [**2177-11-9**]  07:17 PM
                            [**2177-11-10**]  12:47 AM
                            [**2177-11-10**]  04:31 AM
                            [**2177-11-10**]  02:40 PM
                            [**2177-11-11**]  04:19 AM
                            [**2177-11-11**]  05:00 PM
                            [**2177-11-12**]  04:45 AM
                            [**2177-11-13**]  03:25 AM
   WBC
   13.8
   14.4
   15.4
   16.8
   23.5
   Hct
   31.0
   29.5
   31.2
   29.2
   29.9
   28.3
   Plt
   101
   115
   114
   105
   72
   Cr
   7.0
   8.7
   9.5
   10.4
   11.8
   8.6
   10.9
   TropT
   0.82
   0.56
   TCO2
   26
   26
   28
   Glucose
   84
   100
   102
   102
   98
   160
   132
   Other labs: PT / PTT / INR:13.8/28.4/1.2, CK / CKMB /
   Troponin-T:[**Numeric Identifier 1810**]/50/0.56, ALT / AST:302/264, Alk Phos / T Bili:56/1.0,
   Differential-Neuts:79.0 %, Band:5.0 %, Lymph:8.0 %, Mono:1.0 %, Eos:4.0
   %, Fibrinogen:670 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.6 g/dL,
   LDH:1815 IU/L, Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:5.8 mg/dL
   Imaging: Chest CT [**2177-11-12**]: Provisional Findings Impression: AGLc WED
   [**2177-11-12**] 7:43 PM
   1. Compared to the CT of [**2177-11-4**], there is interval essential
   resolution of
   bilateral pneumothoraces. Tiny left pleural effusion is seen. Presumed
   left
   apical DART catheter terminates in the subcutaneous soft tissues.
   2. Ill-defined ground-glass and peribronchiolar opacities in the right
   upper
   lobe are decreased in number and extensiveness, consistent with
   improving
   inflammatory or infectious process. Few opacities in the left upper and
   left
   lower lobe, which may have been present previously but are difficult to
   compare due to previously collapsed left lower lobe.
   3. Subsegmental atelectasis persists in the reexpanded left lower
   lobe.
   There is mucous plugging of the bronchus intermedius on the right, with
   continued collapse of the right lower lobe and new partial atelectasis
   of the
   right middle lobe.
   4. New pneumomediastinum.
   5. Dialysis catheter terminating in the region of the inferior
   cavoatrial
   junction.
   Assessment and Plan
   Assessment and Plan
   Assessment and Plan
   Patient is a 29 year old male who was found down with toxicology screen
   positive for opiates, benzos, and cocaine with resultant respiratory
   depression, acidemia, rhabdomyolysis, acute renal failure,  intubated
   after PEA arrest in emergency room, extubated [**11-9**], with respiratory
   alkalosis.
   Respiratory alkalosis: extubted ([**11-9**]). Patient has persistent
   bilateral pneumothoracies with DART on left side with reexpansion of
   lung. s/p chest tube on right, discontinued on [**11-11**]. Now hypoxic, 94%
   on 5L NC. Concern for possible pna in setting of low grade temp, vs.
   aspiration.
   - chest CT today without contrast.
   -sputum cx.
   - Staph aureus from sputum culture Pan sensitive. Got vanc x 7 days
   Rhabdomyolysis/Acute Renal Failure: Patient was found to have CK on
   admission 206,000, now trending down to 28,000. His rhabdo was felt to
   be secondary to possible compartment syndrome or seizure activity, or
   prolonged stasis.
   -  Continue dialysis as needed for treatment of rhabdo and
   hyperkalemia, and volume state.
   - making minimal urine
   -follow left lower extremity clinically. If increasing pain re-consult
   ortho to assess for compartment syndrome.
   Hypertension:. Likely volume related. Planned to get dialyzed today,
   but in the interim, will treat with IV hydralazine PRN
   Leukocytosis: WBC 25 with 10% bands on admission, now normalized. Could
   be secondary to acute stress, versus infection
   -as above, sputum with pan sensitive staph aureus, s/p 7 days of vanco,
   7th day [**11-11**], will still be in system since no dialysis today.
   -resend sputum cx, urine cx, blood cx.
   PEA Arrest: His arrest was felt to likely be a combination of
   hyperkalemia, hypoxia, hypercarbia, and/or acidemia.
   s/p  Arctic Sun cooling system for 24 hours, now re-warmed.
   TTE: global hypoperfusion, will need f/u in [**1-29**] months.
   - f/u TTE in 4 weeks.
     Anemia: Patient
s HCT this morning noted to be 31, down from 35
   yesterday. No active bleeding noted, but with large right thigh, will
   need to continue to monitor for hematoma there or other possible
   bleeding. Has not had evidence of DIC during cooling or re-warning.
   Transaminitis: This is likely secondary to muscle breakdown from
   rhabdo, but also could be from shock liver in the setting of
   hypotension, or hepatitis C. He is now s/p 21 hours of NAC for
   repleting glutathione stores, and his LFTs are trending downward.
   Substance abuse: Supportive treatment as above. social work consult
   when he wakes up.
    Access: left Subclavian, left radial aline. In for new tunneled HD
   cath for future HD.
   -DC subclavian line.
    ICU Care
    Nutrition: PO, nectar pre-thickened liquids.
    Glycemic Control:  Regular insulin sliding scale
    Lines:
    Multi Lumen - [**2177-11-5**] 02:30 AM
    Prophylaxis:
    DVT: SQ UF Heparin
    Stress ulcer: Not indicated
    VAP:
    Comments:
    Communication: ICU consent signed Comments:
    Code status: Full code
   Disposition:
    ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2177-11-5**] 02:30 AM
   Dialysis Catheter - [**2177-11-11**] 11:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2177-11-11**] 11:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: